US04889857
By the use of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid and 2-(N-benzyl-N-methylaminomethyl)morpholine, the reaction is similarly carried out as Example 11 to give 1-cyclopropyl-7-[2-(N-benzyl-N-methylaminomethyl)morpholino]-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, melting at 155°-157° C.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 2-(N-benzyl-N-methylaminomethyl)morpholine | C(C1=CC=CC=C1)N(C)CC1CNCCO1 | C13H20N2O
product | 1-cyclopropyl-7-[2-(N-benzyl-N-methylaminomethyl)morpholino]-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(OCC1)CN(C)CC1=CC=CC=C1)F)=O)C(=O)O | C26H27F2N3O4
